US07598398B2
N-Methoxy-N-methyl-6-(trifluoromethyl)-1H-indole-2-carboxamide
To cooled (−78° C.) solution of 6-trifluoromethyl indole (1.44 g, 7.77 mmol) in THF (10 mL) was added n-BuLi (5.1 mL, 1.6 M in hexanes, 8.2 mmol). After 30 min, a stream of dry CO2 (Aldrich lecture bottle) was bubbled through the mixture for 10 min. The resultant mixture was held at −78° C. for a further 10 min, then was concentrated in vacuo. The resultant solid was dissolved in THF (10 mL), cooled to −78° C., and t-BuLi (4.8 mL, 1.7 M in pentane, 8.2 mmol) was added. After 1 h, a stream of dry CO2 was bubbled through the reaction mixture for 10 min. After an additional 1 h at −78° C., the mixture was quenched with H2O and allowed to warm to room temperature. The mixture was diluted with EtOAc, then poured into a mixture of sat. aq. NH4Cl and 1 N HCl (1:1). The phases were separated, and aqueous phase was extracted with EtOAc. The combined organic phases were dried over Na2SO4 and concentrated in vacuo. To a flask containing the crude product obtained above were added EDC (2.97 g, 15.5 mmol), HOBt (2.10 g, 15.5 mmol), N,O-dimethylhydroxylamine hydrochloride (1.52 g, 15.5 mmol). The resultant mixture was dissolved in DMF (20 mL), DIEA (6.9 mL, 39 mmol) was added, and the reaction mixture was stirred at 50° C. for 18 h. The mixture was quenched by addition of sat. aq. NaHCO3. The aqueous phase was extracted with EtOAc and the organic phase was concentrated in vacuo. Purification by flash chromatography on silica gel (10 to 60%, then 60 to 100% EtOAc in hexanes) provided the title compound: LCMS A, tr=3.23 min, m/z 273.2 [M+H]+; 1H NMR (500 MHz, CDCl3) δ 9.67 (s, 1H), 7.79 (d, J=8.5 Hz, 1H), 7.75 (s, 1H), 7.36 (d, J=9.0 Hz, 1H), 7.28 (s, 1H), 3.87 (s, 3H), 3.46 (s, 3H).

reactant | 6-trifluoromethyl indole | 7.77 mmol, 1.44 g | FC(C1=CC=C2C=CNC2=C1)(F)F | C9H6F3N
reactant | n-BuLi | 8.2 mmol, 1.6 M, 5.1 mL | [Li]CCCC
reactant | t-BuLi | 8.2 mmol, 1.7 M, 4.8 mL | [Li]C(C)(C)C
reactant | EDC | 15.5 mmol, 2.97 g
reactant | HOBt | 15.5 mmol, 2.10 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | N,O-dimethylhydroxylamine hydrochloride | 15.5 mmol, 1.52 g | Cl.CNOC
reactant | DIEA | 39 mmol, 6.9 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 10 mL | C1CCOC1 | C4H8O
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
product | N-Methoxy-N-methyl-6-(trifluoromethyl)-1H-indole-2-carboxamide | CON(C(=O)C=1NC2=CC(=CC=C2C1)C(F)(F)F)C | C12H11F3N2O2
